US06153612
(b) N-Hydroxy-2-[4-(4-phenyl-piperidin-1-yl)-benzene-sulfonylamino]-acetamide
A room temperature mixture of N-[phenyl-methyl)-oxy]-2-[4-(4-phenyl-piperidin-1-yl)-benzenesulfonyl-amino]-acetamide (0.1115 g, 0.0002325 mol) in methanol-tetrahydrofuran (1:1, 25 mL) was hydrogenated at 50 p.s.i. over 5% palladium on barium sulfate (0.018 g) for approximately 10 hours. Additional catalyst (0.020 g) was added, and the mixture hydrogenated again for approximately 10 hours. The mixture was filtered through celite, and the filtrate was rotary evaporated to give a glaze. The glaze was dissolved in chloroform-methanol, silica gel (1.6 g, 230-400 mesh) was added, and the mixture was rotary evaporated to dryness. The powder was poured onto a column of silica gel (10 g, 230-400 mesh) and eluted with hexanes-ethyl acetate-acetic acid (10:20:1, 16×10 mL and 10:20:2, 16×10 mL). Fractions containing product were rotary evaporated, and the residue triturated with chloroform. The chloroform suspension was filtered, and the filtercake was dried in vacuo; yield 0.0054 g (6.0%), mp=164-166° C.

reactant | 2-[4-(4-phenyl-piperidin-1-yl)-benzenesulfonyl-amino]-acetamide | 0.0002325 mol, 0.1115 g | C1(=CC=CC=C1)C1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)NCC(=O)N | C19H23N3O3S
reactant | methanol tetrahydrofuran | 25 mL | CO.O1CCCC1
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
catalyst | palladium on barium sulfate | 0.018 g | [Pd] | Pd
product | N-Hydroxy-2-[4-(4-phenyl-piperidin-1-yl)-benzene-sulfonylamino]-acetamide | ONC(CNS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1)=O | C19H23N3O4S
